US09061999B2
4-chloro-3-nitrophenol (5 g, 28.8 mmol, 1 eq.) was placed in dimethylformamide (96 mL) with 4-(2-chloro-ethyl)morpholine (16 g, 86.4 mmol, 3 eq.), Cs2CO3 (65 g, 0.20 mmol, 7 eq.), KI (10.5 g, 63.4 mmol, 2.2 eq.). The reaction mixture was heated at 80° C. and stirred for 20 hours. The reaction mixture was then concentrated under reduced pressure and the resulting residue was diluted with ethyl acetate. The organic phase was washed with a 1% NaOH aqueous solution, dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 4-(2-(4-chloro-3-nitrophenoxy)ethyl)morpholine. (7.5 g, 96%).

reactant | 4-chloro-3-nitrophenol | 28.8 mmol, 5 g, 1 eq. | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 4-(2-chloro-ethyl)morpholine | 86.4 mmol, 16 g, 3 eq. | ClCCN1CCOCC1 | C6H12ClNO
reactant | Cs2CO3 | 0.20 mmol, 65 g, 7 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | 96 mL | CN(C=O)C | C3H7NO
product | 4-(2-(4-chloro-3-nitrophenoxy)ethyl)morpholine | ClC1=C(C=C(OCCN2CCOCC2)C=C1)[N+](=O)[O-] | C12H15ClN2O4
